US08791108B2
To a mixture of 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylic acid (21 mg, 0.042 mmol) and (4-fluorophenyl)methanamine (10.52 mg, 0.084 mmol) in DMF (1 mL) was added DIEA (0.037 mL, 0.210 mmol), HATU (32.0 mg, 0.084 mmol) and DMAP (1.027 mg, 8.41 μmol) and the resulting mixture was stirred at rt for 16 h. At this point LCMS indicated completion of reaction. The reaction mixture was then filtered and purified by prep HPLC to afford (2S)-ethyl 2-(tert-butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-2-((4-fluorobenzyl)carbamoyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (12 mg, 0.020 mmol, 47.1% yield) as off-white solid. 1H NMR (500 MHz, CDCl3) δ: 7.34-7.30 (m, 2H), 7.23 (t, J=6.4 Hz, 1H), 7.20 (s, 1H), 7.06-6.99 (m, 2H), 6.85 (d, J=10.7 Hz, 1H), 4.96 (s, 1H), 4.67-4.53 (m, 2H), 4.35 (t, J=5.3 Hz, 2H), 4.15 (q, J=7.0 Hz, 2H), 2.79 (s, 3H), 2.76 (t, J=6.6 Hz, 2H), 2.24-2.14 (m, 2H), 1.82 (s, 3H), 1.21 (t, J=7.2 Hz, 3H), 1.17 (s, 9H). LCMS (M+H)=607.4.

reactant | 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.042 mmol, 21 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2)C(=O)O)C | C26H30FN3O6
reactant | (4-fluorophenyl)methanamine | 0.084 mmol, 10.52 mg | FC1=CC=C(C=C1)CN | C7H8FN
reactant | DIEA | 0.210 mmol, 0.037 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.084 mmol, 32.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 8.41 μmol, 1.027 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2S)-ethyl 2-(tert-butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-2-((4-fluorobenzyl)carbamoyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.020 mmol, 12 mg, 47.1% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2)C(NCC2=CC=C(C=C2)F)=O)C | C33H36F2N4O5
